US06297258B1
4-(3-Hydroxy-pyrrolidin-1-yl)-but-2-enoic Acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide
A mixture of 250 mg (0.51 mmol) of 4-bromo-but-2-enoic acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide, and 85 μL (1.02 mmol) of R-(+)-3-pyrrolidinol in 5.0 ml dimethylformamide was stirred at room temperature for 4 hr and at 60° C. for 1 hr. After the mixture was cooled, saturated sodium bicarbonate solution was added and the solution was subsequently extracted with ethyl acetate. The extracts were evaporated to an oil, and purified by preparative TLC. Yield 84.2 mg (33%) yellow solid: mp 215-220° C.

reactant | 4-bromo-but-2-enoic acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide | 0.51 mmol, 250 mg | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC(=C(C=C12)NC(C=CCBr)=O)OC)C#N | C21H15BrClFN4O2
reactant | R-(+)-3-pyrrolidinol | 1.02 mmol, 85 μL | CCCCN1CCCC1 | C8H17N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 5.0 ml | CN(C=O)C | C3H7NO
product | 4-(3-Hydroxy-pyrrolidin-1-yl)-but-2-enoic Acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC(=C(C=C12)NC(C=CCN1CC(CC1)O)=O)OC)C#N | C25H23ClFN5O3
